US09102662B2
Preparation of 2,6-dichloro-N-[5-(3,5-difluorobenzyl)-1H-indazol-3-yl]pyridine-3-carboxamide
2,6-dichloropyridine-3-carboxylic acid (480 mg, 2.5 mmol) and thionyl chloride (0.28 mL, 3.75 mmol) were heated in toluene dry (120 mL) and a few drops of dry DMF at 90° C. for 2 hours Volatiles were evaporated and the residue dissolved in dry pyridine (15 mL) at 0° C. under nitrogen atmosphere. A solution of 5-(3,5-difluoro-benzyl)-1H-indazol-3-ylamine (518 mg, 2 mmol) in dry pyridine (7 mL) was added to the cooled reaction mixture. The resulting mixture was allowed to react overnight at room temperature, then the solvent removed under reduced pressure. The residue was taken-up with EtOAc and washed with aqueous NaHCO3 sat. sol., water and brine. Organic phase was dried over sodium sulfate and evaporated to dryness. The crude was purified by flash chromatography on silica gel using DCM/EtOH 100:4 as the eluant, affording 300 mg of the title compound.

reactant | 2,6-dichloropyridine-3-carboxylic acid | 2.5 mmol, 480 mg | ClC1=NC(=CC=C1C(=O)O)Cl | C6H3Cl2NO2
reactant | thionyl chloride | 3.75 mmol, 0.28 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 5-(3,5-difluoro-benzyl)-1H-indazol-3-ylamine | 2 mmol, 518 mg | FC=1C=C(CC=2C=C3C(=NNC3=CC2)N)C=C(C1)F | C14H11F2N3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 7 mL | N1=CC=CC=C1 | C5H5N
product | 2,6-dichloro-N-[5-(3,5-difluorobenzyl)-1H-indazol-3-yl]pyridine-3-carboxamide | 300 mg | ClC1=NC(=CC=C1C(=O)NC1=NNC2=CC=C(C=C12)CC1=CC(=CC(=C1)F)F)Cl | C20H12Cl2F2N4O
